US04847305
2,6-bis(1,1-dimethylethyl)-1-methoxy-4-(methylthio)benzene
To a solution of 2,6-bis(1,1-dimethylethyl)-4-(methylthio)phenol (1.16 g, 4.6 mmole) in dimethylformamide (15 ml) was added sodium hydroxide (0.37 g, 9.2 mmole). After the solution was warmed for one hour, methyl iodide (0.72 g, 5.1 mmole) was added, and the mixture was warmed for an additional three hours. The reaction mixture was poured into water (150 ml) and extracted with diethyl ether (180 ml in three positions). The ether extract was washed with saturated aqueous sodium carbonate, dried over sodium sulfate, filtered, and concentrated in vacuo to an oil. Upon standing the oil crystallized. Recrystallization from hexane gave the title compound, m.p. 50°-52°.

reactant | 2,6-bis(1,1-dimethylethyl)-4-(methylthio)phenol | 4.6 mmole, 1.16 g | CC(C)(C)C1=C(C(=CC(=C1)SC)C(C)(C)C)O | C15H24OS
reactant | sodium hydroxide | 9.2 mmole, 0.37 g | [OH-].[Na+]
reactant | methyl iodide | 5.1 mmole, 0.72 g | CI | CH3I
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2,6-bis(1,1-dimethylethyl)-1-methoxy-4-(methylthio)benzene | CC(C)(C)C1=C(C(=CC(=C1)SC)C(C)(C)C)OC | C16H26OS
